US04435410
3-{[3(R)ETHYL-4(R)PIPERIDYL]-ETHYL}-INDOLE
0.250 g of 3-{[3-(R)vinyl-4(R)piperidyl]-ethyl}-indole in 1 ml of normal hydrochloric acid and 9 ml of methanol in the presence of 0.04 g of platinum oxide as catalyst were hydrogenated for 3 hours at ambient temperature and at atmospheric pressure. The catalyst was filtered, the filtrate evaporated to dryness, the residue made up in 100 ml of water, the aqueous phase washed with ether and alkalinized with an aqueous solution of sodium hydroxide and the insoluble substance was extracted with ethyl acetate. The organic phase was dried over magnesium sulfate and evaporated to dryness under reduced pressure. 0.180 g of product which melted at 150° C. was obtained.

reactant | 3-{[3-(R)vinyl-4(R)piperidyl]-ethyl}-indole | 0.250 g | C(=C)[C@H]1CNCC[C@H]1CCC1=CNC2=CC=CC=C12 | C17H22N2
solvent | hydrochloric acid | 1 ml | Cl | ClH
solvent | methanol | 9 ml | CO | CH4O
catalyst | platinum oxide | 0.04 g | [Pt]=O
product | 3-{[3(R)ETHYL-4(R)PIPERIDYL]-ETHYL}-INDOLE | 0.180 g | C(C)[C@H]1CNCC[C@H]1CCC1=CNC2=CC=CC=C12 | C17H24N2
